US07612091B2
(3S)-3-Benzyloxycarbonylamino-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester
NaBH4 (1.65 g) was added portionwise to a stirred solution of 3-benzyloxycarbonylamino-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester (21.1 g) in anhydrous THF (220 mL) at −20° C. under nitrogen. After stirring at this temperature for 3 hours, the reaction was quenched by the addition of saturated ammonium chloride solution and diluted with DCM. The organic layer was removed and the aqueous layer re-extracted with DCM. The combined organic extracts were washed with brine, dried (magnesium sulfate) and concentrated. The residue was purified by column chromatography (10%-20% ethyl acetate/hexane). The sub-title compound as a white solid (14.6 g, 73%); 1H NMR (400 MHz, CDCl3) δ 1.45 (9H, s), 2.61-2.77 (2H, m), 3.16-3.36 (1H, 2×brd d), 4.12-4.22 (2H, m), 4.30-4.33 (1H, m), 5.44-5.69 (1H, 2×d), 6.78-6.86 (1H, m), 7.35-7.36 (5H, m); 19F NMR (346 MHz, CDCl3) (proton decoupled) δ −139.87, −139.89, −139.93, −139.95, −139.98, −157.02, −157.05, −157.06, −157.08, −157.09, −157.10, −157.12; ES (+) 488.27 (M+H).

reactant | NaBH4 | 1.65 g | [BH4-].[Na+]
reactant | 3-benzyloxycarbonylamino-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | 21.1 g | C(C)(C)(C)OC(CC(C(COC1=C(C(=CC(=C1F)F)F)F)=O)NC(=O)OCC1=CC=CC=C1)=O | C23H23F4NO6
solvent | THF | 220 mL | C1CCOC1 | C4H8O
product | (3S)-3-Benzyloxycarbonylamino-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(COC1=C(C(=CC(=C1F)F)F)F)O)NC(=O)OCC1=CC=CC=C1)=O | C23H25F4NO6
